### PR TITLE
feat(CategoryTheory/AlgebraicGeometry): Flasque Sheaves have vanishing cohomology

### PR DESCRIPTION
**Pull request by Brian-Nugent**
Proves cohomology vanishing for flasque sheaves.

---

- [x] depends on: #34742
- [x] depends on: #34267
- [x] depends on: #35785
- [x] depends on: #36218

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 1]
```diff
@@ -184,6 +190,88 @@ theorem of_shortExact_of_isFlasque₁₂ {S : ShortComplex (Sheaf AddCommGrpCat
...
+
+/-- The sheafification of the presheaf that is `ℤ` on `U` and `0` elsewhere. -/
+private abbrev freeAbSheaf (U : Opens X) : Sheaf AddCommGrpCat.{u} X :=
+  (presheafToSheaf _ _).obj (yoneda.obj U ⋙ AddCommGrpCat.free)
+
+/-- If `U` is contained in `V`, we get a natural morphism from `freeAbSheaf U` to `freeAbSheaf V` -/
+private abbrev freeAbSheafMap {U V : Opens X} (i : U ⟶ V) : freeAbSheaf U ⟶ freeAbSheaf V :=
+  (presheafToSheaf _ _).map (Functor.whiskerRight (yoneda.map i) AddCommGrpCat.free)
+
+/-- Morphisms out of `freeAbSheaf U` are in correspondance with the sections `I.obj.obj (op U)` -/
```
Comment (Multramate) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
/-- Morphisms out of `freeAbSheaf U` are in correspondence with the sections `I.obj.obj (op U)` -/
```

File: Mathlib/Topology/Sheaves/Sheaf.lean [hunk 2]
```diff
@@ -145,6 +145,11 @@ theorem comp_app {F G H : Sheaf C X} (f : F ⟶ G) (g : G ⟶ H) (t) :
     (f ≫ g).1.app t = f.1.app t ≫ g.1.app t :=
   rfl
 
+/-- The evaluation on an open functor. Given `U : Opens X`, `(sheafSections C).obj (op U)` is the
+sections functor usually written in the literature as `Γ(U, _)` -/
+@[simps!]
+def sheafSections : (Opens X)ᵒᵖ ⥤ Sheaf C X ⥤ C := CategoryTheory.sheafSections _ C
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/Sheaf.lean]: Could this be an `abbrev`? At the very least, it should be made `implicit_reducible`.

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 3]
```diff
@@ -184,6 +190,88 @@ theorem of_shortExact_of_isFlasque₁₂ {S : ShortComplex (Sheaf AddCommGrpCat
...
+    refine fun i => ((AddCommGrpCat.epi_iff_surjective _).mpr (fun s => ?_))
+    obtain ⟨h, hh⟩ := Injective.factors ((freeAbSheafHomEquiv _ I).symm s) (freeAbSheafMap i.unop)
+    use freeAbSheafHomEquiv _ I h
+    rw [← Quiver.Hom.op_unop i, ← freeAbSheafHomEquiv_naturality, hh]
+    simp
+
+set_option backward.isDefEq.respectTransparency false in
+/-- Flasque sheaves have no higher cohomology. For most applications, it is probably better to use
+`Subsingleton (H F (n + 1))` which can be proven by `TopCat.Sheaf.IsFlasque.subsingleton_H` -/
+theorem H_isZero (F : Sheaf AddCommGrpCat X) [IsFlasque F] (n : ℕ) :
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
theorem isZero_H (F : Sheaf AddCommGrpCat X) [IsFlasque F] (n : ℕ) :
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 4]
```diff
@@ -184,6 +190,88 @@ theorem of_shortExact_of_isFlasque₁₂ {S : ShortComplex (Sheaf AddCommGrpCat
       exact CategoryTheory.epi_comp' inferInstance (epi_of_shortExact hS)
     exact CategoryTheory.epi_of_epi (S.g.1.app U) (S.X₃.obj.map i)
 
+noncomputable section
+
+/-- The sheafification of the presheaf that is `ℤ` on `U` and `0` elsewhere. -/
+private abbrev freeAbSheaf (U : Opens X) : Sheaf AddCommGrpCat.{u} X :=
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/Flasque.lean]: A proper API should be introduced for this. For the proof alone, it may be possible to use the content of the files `CategoryTheory/Generator/Presheaf.lean` and `Sheaf.lean`.

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean [hunk 5]
```diff
@@ -48,4 +60,32 @@ lemma Presheaf.restrict_sum {V : Opens X} {F : Presheaf AddCommGrpCat X} (h : V
...
+
+/-- The documention for `HasExt` says to be very careful about making instances of it so we only
+make this instance for `AddCommGrpCat`. -/
+instance : HasExt.{u} (CategoryTheory.Sheaf (Opens.grothendieckTopology X) AddCommGrpCat.{u}) :=
+  hasExt_of_enoughInjectives _
+
+/-- The cohomology of a sheaf of abelian groups in degree `n`. -/
+abbrev H (F : (Sheaf AddCommGrpCat.{u} X)) (n : ℕ) : Type u := CategoryTheory.Sheaf.H F n
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/AddCommGrpCat.lean:75]: I really we should get rid of these `set_option`. It seems the problem is that the category of sheaves over a topological spaces is defined as a `def`. It should definitely be an `abbrev`!

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 6]
```diff
@@ -184,6 +190,88 @@ theorem of_shortExact_of_isFlasque₁₂ {S : ShortComplex (Sheaf AddCommGrpCat
...
+    use freeAbSheafHomEquiv _ I h
+    rw [← Quiver.Hom.op_unop i, ← freeAbSheafHomEquiv_naturality, hh]
+    simp
+
+set_option backward.isDefEq.respectTransparency false in
+/-- Flasque sheaves have no higher cohomology. For most applications, it is probably better to use
+`Subsingleton (H F (n + 1))` which can be proven by `TopCat.Sheaf.IsFlasque.subsingleton_H` -/
+theorem H_isZero (F : Sheaf AddCommGrpCat X) [IsFlasque F] (n : ℕ) :
+    IsZero (AddCommGrpCat.of (H F (n+1))) := by
+  let : HasSheafify (Opens.grothendieckTopology X) AddCommGrpCat.{u} := inferInstance
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/Flasque.lean]: It seems this line is unnecessary.

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 7]
```diff
@@ -184,6 +190,88 @@ theorem of_shortExact_of_isFlasque₁₂ {S : ShortComplex (Sheaf AddCommGrpCat
...
+    obtain ⟨h, hh⟩ := Injective.factors ((freeAbSheafHomEquiv _ I).symm s) (freeAbSheafMap i.unop)
+    use freeAbSheafHomEquiv _ I h
+    rw [← Quiver.Hom.op_unop i, ← freeAbSheafHomEquiv_naturality, hh]
+    simp
+
+set_option backward.isDefEq.respectTransparency false in
+/-- Flasque sheaves have no higher cohomology. For most applications, it is probably better to use
+`Subsingleton (H F (n + 1))` which can be proven by `TopCat.Sheaf.IsFlasque.subsingleton_H` -/
+theorem H_isZero (F : Sheaf AddCommGrpCat X) [IsFlasque F] (n : ℕ) :
+    IsZero (AddCommGrpCat.of (H F (n+1))) := by
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
    IsZero (AddCommGrpCat.of (H F (n + 1))) := by
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 8]
```diff
@@ -184,6 +190,88 @@ theorem of_shortExact_of_isFlasque₁₂ {S : ShortComplex (Sheaf AddCommGrpCat
...
+  epi := by
+    refine fun i => ((AddCommGrpCat.epi_iff_surjective _).mpr (fun s => ?_))
+    obtain ⟨h, hh⟩ := Injective.factors ((freeAbSheafHomEquiv _ I).symm s) (freeAbSheafMap i.unop)
+    use freeAbSheafHomEquiv _ I h
+    rw [← Quiver.Hom.op_unop i, ← freeAbSheafHomEquiv_naturality, hh]
+    simp
+
+set_option backward.isDefEq.respectTransparency false in
+/-- Flasque sheaves have no higher cohomology. For most applications, it is probably better to use
+`Subsingleton (H F (n + 1))` which can be proven by `TopCat.Sheaf.IsFlasque.subsingleton_H` -/
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/Flasque.lean]: A possibility would be not to introduce this lemma, and just start the proof of `subsingleton_H` by some `suffices IsZero ...`.

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 9]
```diff
@@ -184,6 +190,88 @@ theorem of_shortExact_of_isFlasque₁₂ {S : ShortComplex (Sheaf AddCommGrpCat
...
+      ((AddCommGrpCat.isZero_of_subsingleton (AddCommGrpCat.of (H I 1))).eq_zero_of_tgt _)
+  | succ n hn =>
+    obtain ⟨I, _, f, hf⟩ := EnoughInjectives.presentation F
+    have hS := ShortComplex.ShortExact.mk (ShortComplex.exact_cokernel f)
+    have := of_shortExact_of_isFlasque₁₂ hS
+    exact ShortComplex.Exact.isZero_of_both_isZero
+      (Sheaf.H.longSequence_exact₁' hS (n+1) (n+2) rfl) (hn _)
+      (AddCommGrpCat.isZero_of_subsingleton (AddCommGrpCat.of (H I (n + 2))))
+
+instance subsingleton_H {F : Sheaf AddCommGrpCat X} [IsFlasque F] (n : ℕ) :
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/Flasque.lean]: It could be convenient to prove `Subsingleton (H F n)` under the `NeZero n` assumption instead.

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean (hunk 5 above)
Comment (Brian-Nugent) [reply Mathlib/Topology/Sheaves/AddCommGrpCat.lean:75]: I agree! I opened a PR making `TopCat.Sheaf` an `abbrev` a while back as well opening a Zulip thread (it was long enough ago that I can't seem to find it anymore). I remember there being some pushback but now that I understand things a bit better I'm quite sure it should be changed. Should I just change it here or open a separate PR?

File: Mathlib/Topology/Sheaves/Flasque.lean (hunk 4 above)
Comment (Brian-Nugent) [reply Mathlib/Topology/Sheaves/Flasque.lean]: Are you saying you think `freeAbSheaf` should be `public` and have an API or should stay `private` but still have an API? I don't think it should be `public` be as its not general enough and so I don't see the point in building on it. Extension by zero is something that will need to be formalized at some point but this will take some work so I figured I'd just make these definitions private since they're all that's needed for this proof.

File: Mathlib/Topology/Sheaves/Sheaf.lean (hunk 2 above)
Comment (Brian-Nugent) [reply Mathlib/Topology/Sheaves/Sheaf.lean]: This must be old, I don't see a reason to have this at all. I'll delete it.

File: Mathlib/Topology/Sheaves/Flasque.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/Topology/Sheaves/Flasque.lean]: I am not speaking of the extension by zero, I am referring to the fact that the functor of sections on `U` is represented by the sheafification of the presheaf which sends `V` to the free abelian group on morphisms from `V` to `U`.

Comment (Brian-Nugent) [reply Mathlib/Topology/Sheaves/Flasque.lean]: I still don't understand what you're saying. I've generalized the definitions that were privat and put them in `CategoryTheory/Generator/Presheaf.lean` if that's what you were asking for.

AI disclosure: Astra helped with this (but not with anything else from this PR)

Comment (Brian-Nugent) [reply Mathlib/Topology/Sheaves/Flasque.lean]: Sidenote: Should presheaves and sheaves also be marked as `implicit_reducible` since they're functors?

File: Mathlib/CategoryTheory/Generator/Presheaf.lean [hunk 10]
```diff
@@ -37,6 +38,23 @@ noncomputable def freeYoneda (X : C) (M : A) : Cᵒᵖ ⥤ A where
   obj Y := ∐ (fun (i : (yoneda.obj X).obj Y) ↦ M)
   map f := Sigma.map' ((yoneda.obj X).map f) (fun _ ↦ 𝟙 M)
 
+/-- The morphism between free presheaves induced by a morphism of the indexing objects. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Generator/Presheaf.lean:41]: The docstring is not super clear.

File: Mathlib/CategoryTheory/Generator/Presheaf.lean [hunk 11]
```diff
@@ -37,6 +38,23 @@ noncomputable def freeYoneda (X : C) (M : A) : Cᵒᵖ ⥤ A where
...
+@[simps]
+noncomputable def freeYonedaMap {X Y : C} (f : X ⟶ Y) (M : A) :
+    freeYoneda X M ⟶ freeYoneda Y M where
+  app Z := Sigma.map' (fun g : Z.unop ⟶ X ↦ g ≫ f) (fun _ ↦ 𝟙 M)
+  naturality Z W g := by
+    apply Sigma.hom_ext
+    intro h
+    simp [freeYoneda, Category.assoc]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Generator/Presheaf.lean:49]: This proof can be removed if you make `freeYoneda` implicit_reducible.
```suggestion
```

File: Mathlib/Topology/Sheaves/Flasque.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/Topology/Sheaves/Flasque.lean]: I would not ask the addition of more API for private definitions!
Yes, most of the presheaves/sheaves should be marked `implicit_reducible`.

File: Mathlib/CategoryTheory/Generator/Presheaf.lean [hunk 12]
```diff
@@ -51,6 +69,16 @@ noncomputable def freeYonedaHomEquiv {X : C} {M : A} {F : Cᵒᵖ ⥤ A} :
...
 
+@[reassoc]
+lemma freeYonedaHomEquiv_naturality {X Y : C} {M : A} {F : Cᵒᵖ ⥤ A}
+    (f : X ⟶ Y) (α : freeYoneda Y M ⟶ F) :
+    freeYonedaHomEquiv (freeYonedaMap f M ≫ α) =
+      freeYonedaHomEquiv α ≫ F.map f.op := by
+  change Sigma.ι _ (𝟙 X) ≫ ((freeYonedaMap f M).app (op X) ≫ α.app (op X)) =
+    (Sigma.ι _ (𝟙 Y) ≫ α.app (op Y)) ≫ F.map f.op
+  simpa [freeYonedaMap, freeYoneda] using
+    (Sigma.ι (fun _ : Y ⟶ Y ↦ M) (𝟙 Y) ≫= α.naturality f.op)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Generator/Presheaf.lean:80]:
```suggestion
  obtain ⟨β, rfl⟩ := freeYonedaHomEquiv.symm.surjective α
  simp [freeYonedaHomEquiv, freeYonedaMap]
```

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean (hunk 5 above)
Comment (joelriou) [reply Mathlib/Topology/Sheaves/AddCommGrpCat.lean:75]: It was at [#mathlib4 > Abelian TopCat.Sheaf not synthesizing @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Abelian.20TopCat.2ESheaf.20not.20synthesizing/near/568513474) and the PR was #34094. Could you reopen this PR, update with the current master, and check that it would solve the specific issue here?

Comment (Brian-Nugent) [reply Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: Changing it to an `abbrev` removed almost all the `set_options`!

File: Mathlib/CategoryTheory/Generator/Presheaf.lean (hunk 11 above)
Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Generator/Presheaf.lean]: That removed some old `set_options` as well!

File: Mathlib/CategoryTheory/Generator/Presheaf.lean (hunk 10 above)
Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Generator/Presheaf.lean]: Better?
